US06020517
200 g of ethylbenzene, 0.30 g of 5% palladium/activated carbon, and 6.0 g of 2,3,5,6-tetrafluoroterephthalonitrile were added to a 1000 cc stainless steel autoclave in a nitrogen atmosphere. The gas phase was sufficiently replaced with a mixed gas of 41 vol % hydrogen and 59 vol % nitrogen, then the mixed gas was used to keep the pressure at 0.23 MPa and the temperature was maintained at 190° C. After 2, 4, and 6 hours, the reaction solution was analyzed by gas chromatography, whereupon the conversions of 2,3,5,6-tetrafluoroterephthalonitrile were found to be 23, 62, and 99% and the yields of 2,3,5,6-tetrafluorobenzonitrile (based on 2,3,5,6-tetrafluoroterephthalonitrile) were 22, 56, and 87%, respectively.

reactant | ethylbenzene | 200 g | C(C)C1=CC=CC=C1 | C8H10
reactant | 2,3,5,6-tetrafluoroterephthalonitrile | 6.0 g | FC1=C(C#N)C(=C(C(=C1F)C#N)F)F | C8F4N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 0.30 g | [Pd] | Pd
product | 2,3,5,6-tetrafluorobenzonitrile | FC1=C(C#N)C(=C(C=C1F)F)F | C7HF4N
